data/oMe_Silver.jsonl
{"reaction_id": "NR-320_1-C(F)(F)F_2-C_3-N(=O)=O_4-c1cnccc1_5-SC_6-C1CCCCC1_7-c1ccccc1","level": "hard","name": "Willgerodt-Kindler Reaction","reactants_smiles": ["CC(=O)c1c(C(F)(F)F)c(C)c(N(=O)=O)c(c1cnccc1)c1(SC)","N(C1CCCCC1)(c1ccccc1)","S1SSSSSSS1"],"products_smiles": ["N(C1CCCCC1)(c1ccccc1)C(=S)Cc1c(C(F)(F)F)c(C)c(N(=O)=O)c(c1cnccc1)c1(SC)"],"conditions": "Heat","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C=C(N(C1CCCCC1)(c1ccccc1))c1c(C(F)(F)F)c(C)c(N(=O)=O)c(c1cnccc1)c1(SC)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by resonance withdrawal from the aromatic ring, forming an imine-like intermediate after dehydration."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+](C1CCCCC1)(c1ccccc1)=C(c1c(C(F)(F)F)c(C)c(N(=O)=O)c(c1cnccc1)c1(SC))CSSSSSSS[S-]","step_weight": 0,"rationale": "The iminium carbon is electrophilic; polysulfide sulfur attacks, displacing a leaving group due to sulfur’s high nucleophilicity and polarizability."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(C1CCCCC1)(c1ccccc1)C(c1c(C(F)(F)F)c(C)c(N(=O)=O)c(c1cnccc1)c1(SC))=CSSSSSSSS","step_weight": 0,"rationale": "Proton transfer stabilizes the intermediate by neutralizing charge, driven by the basicity of nitrogen and the polar environment."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(C1CCCCC1)(c1ccccc1)C(c1c(C(F)(F)F)c(C)c(N(=O)=O)c(c1cnccc1)c1(SC))C=[S+]SSSSSSSS","step_weight": 0,"rationale": "Another proton shift occurs to activate the sulfur atom for subsequent nucleophilic addition, aligning charges for stability."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N+](C1CCCCC1)(c1ccccc1)2C(c1c(C(F)(F)F)c(C)c(N(=O)=O)c(c1cnccc1)c1(SC))C2SSSSSSSS","step_weight": 0,"rationale": "Nucleophilic sulfur attacks the activated iminium carbon, favored by the soft–soft interaction between sulfur and the polarized carbon."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C(c1c(C(F)(F)F)c(C)c(N(=O)=O)c(c1cnccc1)c1(SC))=C(N(C1CCCCC1)(c1ccccc1))SSSSSSSS","step_weight": 0,"rationale": "Elimination of a proton restores conjugation and relieves ring strain, driven by thermodynamic stability of the conjugated system."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1c(C(F)(F)F)c(C)c(N(=O)=O)c(c1cnccc1)c1(SC))C(N(C1CCCCC1)(c1ccccc1))=[S+]SSSSSSS","step_weight": 0,"rationale": "Proton transfer reorganizes the intermediate to place positive charge on sulfur, enhancing its leaving group ability for the next substitution."},{"step": 8,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "N(C1CCCCC1)(c1ccccc1)C(=S)Cc1c(C(F)(F)F)c(C)c(N(=O)=O)c(c1cnccc1)c1(SC)","step_weight": 0,"rationale": "Final nucleophilic substitution by amine on the thiocarbonyl carbon occurs, favored by the electrophilicity of C=S and the good leaving ability of polysulfide."}],"description": "Under heating, the Willgerodt–Kindler reaction converts an aryl methyl ketone into a thiocarbonyl amide via sequential nucleophilic substitutions, proton transfers, and rearrangements. The amine and polysulfide react to form a thioamide, driven by resonance stabilization and favorable leaving group departure under thermal conditions."}
